US07691882B2
2-(Bromomethyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a mixture of triisopropyl borate (20 g, 110 mmol), dibromomethane (8.6 mL, 120 mmol), and tetrahydrofuran (150 mL) was added dropwise n-butyl lithium (2.6 M n-hexane solution, 39 mL, 100 mmol) over a period of 1.5 hours at −78° C., and then the reaction mixture was stirred for 1.5 hours at the same temperature. This mixture was then stirred for 2 hours at room temperature, after which it was cooled to 0° C., methanesulfonic acid (6.5 mL, 100 mmol) was added to the reaction mixture, and then the reaction mixture was stirred for 1 hour at room temperature. The mixture was cooled to 0° C., pinacol (12 g, 100 mmol) was added to the reaction mixture, and the reaction mixture was then stirred for 1 hour at room temperature. The reaction mixture was concentrated under a reduced pressure, after which the residue thus obtained was distilled under a reduced pressure (74-76° C., 8 mmHg) to obtain the title compound (16 g, 68%).

reactant | triisopropyl borate | 110 mmol, 20 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | dibromomethane | 120 mmol, 8.6 mL | BrCBr | CH2Br2
reactant | n-butyl lithium | 100 mmol, 2.6 M, 39 mL | C(CCC)[Li]
reactant | methanesulfonic acid | 100 mmol, 6.5 mL | CS(=O)(=O)O | CH4O3S
reactant | pinacol | 100 mmol, 12 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 2-(Bromomethyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 16 g, 68% | BrCB1OC(C(O1)(C)C)(C)C | C7H14BBrO2
